US05770598
N-(2-Hydroxyethyl)3,4-dimethylpyrrolo[3,2-b]carbazole-2-carboxamide
Ethyl 3,4-dimethylpyrrolo[3,2-b]carbazole-2-carboxylate (1.00 g, 3.26 mmol) was suspended in ethanolamine (5 ml) and heated at reflux (giving an orange solution) under nitrogen for 1.5 hours, by which time TLC showed no remaining starting material. The excess ethanolamine was removed in vacuo and the yellow residue was triturated with DCM. The resulting solid was recrystallised from ethanol/water to give the product (two crops combined) (0.383 g, 36.5%) with m.p. 270° C. (decomp.). δH [2 H6 ]-DMSO 10.90 (1H, br s, 1-NH), 10.59 (1H, s, 5-NH), 8.09 (1H, d, J 9, 9-H), 7.89 (1H, t, J 5, amide NH), 7.85 (1H, s, 10-H), 7.29-7.45 (2H, m, 6-H, 7-H), 7.08 (1H, t, J 7.5, 8-H), 4.80 (1H, t, J 5,O-H) 3.60 (2H, quartet, J 6, 2'-CH2), 3.23-3.50 (2H, m, 1'-CH2), 2.92 and 2.86 (2×3H, 2×s, 3-CH3 and 4-CH3); m/z (%) 321 (87, M+), 303 (72), 260 (100), 231 (64), 69 (67); νmax (KBr disc)/cm-1 3334, 1587, 1543, 1309, 1250.

reactant | Ethyl 3,4-dimethylpyrrolo[3,2-b]carbazole-2-carboxylate | 3.26 mmol, 1.00 g | CC=1C(=NC=2C1C(=C1N=C3C=CC=CC3=C1C2)C)C(=O)OCC | C19H16N2O2
reactant | KBr | [K+].[Br-]
solvent | ethanolamine | 5 ml | C(O)CN | C2H7NO
product | N-(2-Hydroxyethyl)3,4-dimethylpyrrolo[3,2-b]carbazole-2-carboxamide | OCCNC(=O)C=1C(=C2C(=C3N=C4C=CC=CC4=C3C=C2N1)C)C | C19H17N3O2
